US09062048B2
Step A: 2,6-bis(trifluoromethyl)quinazolin-4-ol
A mixture of Trifluoroacetic anhydride (0.882 mL, 6.35 mmol) and 2-amino-5-(trifluoromethyl)benzoic acid (425 mg, 2.01 mmol) were suspended in heptane (40 mL) and heated under Dean-Stark conditions at 110° C. for 18 hours. After cooling to room temperature, reaction mixture was concentrated in vacuo to 15 mL volume, treated acetic acid, concentrated again to 30 mL total volume, ammonium acetate (1 g, 13 mmol) was added and the mixture was heated to for 4 days. After cooling to room temperature, the reaction was concentrated to dryness in vacuo, and the residue slowly quenched with saturated aqueous NaHCO3. The resulting precipitate was collected by filtration, washed with water and heptanes and dried in vacuo to afford the product as a gold solid.

reactant | Trifluoroacetic anhydride | 6.35 mmol, 0.882 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-amino-5-(trifluoromethyl)benzoic acid | 2.01 mmol, 425 mg | NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H6F3NO2
reactant | ammonium acetate | 13 mmol, 1 g | C(C)(=O)[O-].[NH4+]
solvent | heptane | 40 mL | CCCCCCC | C7H16
product | 2,6-bis(trifluoromethyl)quinazolin-4-ol | FC(C1=NC2=CC=C(C=C2C(=N1)O)C(F)(F)F)(F)F | C10H4F6N2O
